US05763458
4-Amino-5-chloro-2-methoxyacetophenone (12.75 g, 64 mmol), prepared as in Example 5, was suspended in THF (125 mL). The suspension was added to a -50° C. solution of lithium diisopropylamide (16.1 g, 150 mmol) in THF (200 mL) and the mixture was stirred at 0° C. for 15 minutes. Pyridine-4-carboxaldehyde (8.0 g, 75 mmol) was added and the mixture was allowed to warm to 5° C. Aqueous ammonium chloride was added and the mixture was extracted three times with ethyl acetate. The combined extracts were washed with water, dried over sodium sulfate, and concentrated in vacuo to leave a semi-solid residue. Ethyl acetate-hexane was added and filtration gave 1-(4-amino-5-chloro-2-methoxyphenyl)-3-hydroxy-3-(pyridin-4-yl)propan-1-one (12.1 g, 40 mmol), m.p. 181°-183° C.

reactant | lithium diisopropylamide | 150 mmol, 16.1 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | Pyridine-4-carboxaldehyde | 75 mmol, 8.0 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | THF | 125 mL | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-hydroxy-3-(pyridin-4-yl)propan-1-one | 40 mmol, 12.1 g | NC1=CC(=C(C=C1Cl)C(CC(C1=CC=NC=C1)O)=O)OC | C15H15ClN2O3
